US05006535
3-Butyryl-4-(3-methyl-2-thienylamino)-8-methoxyquinoline
3-Butyryl-4-chloro-8-methoxyquinoline (3.6 g, 0.0137 mol) and 2-amino-3-methylthiophene (3.4 g, 0.03 mol) in 1,4 dioxan (30 ml) under a nitrogen atmosphere were stirred at room temperature for 20 hours. The solvent was evaporated under reduced pressure to give an oil. The oil was taken up in dichloromethane and extracted with 2N hydrochloric acid (3×100 ml). The dichloromethane extracts were then washed with sodium carbonate solution (100 ml), dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a solid. The solid was purified by flash chromatography using a gradient elution of dichloromethane/methanol (0-5%, 500 ml). The fractions containing the product were combined and evaporated under reduced pressure to give a solid, (1.94 g), m.p. 130°-132°. Recrystallization from ethyl acetate gave the title compound, (1.7 g), m.p. 132°-133°.

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 0.0137 mol, 3.6 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 2-amino-3-methylthiophene | 0.03 mol, 3.4 g | NC=1SC=CC1C | C5H7NS
solvent | 1,4 dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Butyryl-4-(3-methyl-2-thienylamino)-8-methoxyquinoline | 1.7 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC=1SC=CC1C)OC | C19H20N2O2S
